US04816582
7.7 g of 2-chloro-1-methyl-pyridinium iodide are added to a solution of 6.8 g of 2-(2-amino-4-thiazolyl)-2-[(Z)-(2-iodoethoxy)imino]-acetic acid, 4.8 g of (3S,4S)-3-amino-4-carbamoyloxymethyl-2-oxo-1-azetidinesulphonic acid and 8.4 g of triethylamine in 50 ml of dimethylformide and the mixture is stirred for 2 hours. After removal of the solvent under reduced pressure at about 25° C., the residue is taken up in 250 ml of water and washed with 100 ml of ethyl acetate and twice with 100 ml of dichloromethane. After the addition of 20.3 g of tetra-n-butylammonium hydrogen sulphate, the mixture is adjusted to pH 6-7 using 70 ml of saturated sodium bicarbonate solution and extracted four times with 100 ml of dichloromethane each time. The combined extracts are washed with 50 ml of water. The product is then precipitated by the addition of 7.5 ml of formic acid. After washing with acetone and ether, there are obtained 5.6 g of (3S,4S)-3-[(Z)-2-(2-amino-4-thiazolyl)-2-[(2-iodoethoxy)imino]acetamido]-4-carbamoyloxymethyl-2-oxo-1-azetidinesulphonic acid.

reactant | 2-chloro-1-methyl-pyridinium iodide | 7.7 g | [I-].ClC1=[N+](C=CC=C1)C
reactant | 2-(2-amino-4-thiazolyl)-2-[(Z)-(2-iodoethoxy)imino]-acetic acid | 6.8 g | NC=1SC=C(N1)/C(/C(=O)O)=N/OCCI | C7H8IN3O3S
reactant | (3S,4S)-3-amino-4-carbamoyloxymethyl-2-oxo-1-azetidinesulphonic acid | 4.8 g | N[C@@H]1C(N([C@@H]1COC(N)=O)S(=O)(=O)O)=O | C5H9N3O6S
solvent | triethylamine | 8.4 g | C(C)N(CC)CC | C6H15N
product | (3S,4S)-3-[(Z)-2-(2-amino-4-thiazolyl)-2-[(2-iodoethoxy)imino]acetamido]-4-carbamoyloxymethyl-2-oxo-1-azetidinesulphonic acid | 5.6 g | NC=1SC=C(N1)/C(/C(=O)N[C@@H]1C(N([C@@H]1COC(N)=O)S(=O)(=O)O)=O)=N/OCCI | C12H15IN6O8S2
